US08466186B2
(g) N-{4-Chloro-5-fluoro-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-1-trifluoromethyl-cyclopropanamide
The title compound was prepared in analogy to the procedure in Example 76 using N-(4-chloro-5-fluoro-3-isothiocyanatobenzyl)-1-trifluoromethyl-cyclopropane carboxamide (211 mg; 0.60 mmol), 5-chloro-2-methylamino-4-(4-trifluoromethyl-piperidin-1-yl)aniline (184 mg; 0.60 mmol), DIC (78 mg; 0.60 mmol) and DMF (4 mL).

reactant | N-(4-chloro-5-fluoro-3-isothiocyanatobenzyl)-1-trifluoromethyl-cyclopropane carboxamide | 0.60 mmol, 211 mg | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1F)N=C=S | C13H9ClF4N2OS
reactant | 5-chloro-2-methylamino-4-(4-trifluoromethyl-piperidin-1-yl)aniline | 0.60 mmol, 184 mg | ClC=1C(=CC(=C(N)C1)NC)N1CCC(CC1)C(F)(F)F | C13H17ClF3N3
reactant | DIC | 0.60 mmol, 78 mg | CC(N=C=NC(C)C)C | C7H14N2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | N-{4-Chloro-5-fluoro-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-1-trifluoromethyl-cyclopropanamide | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1F)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)C(F)(F)F | C26H24Cl2F7N5O
